US05714438
To 3.2 mg of oil-free NaH was added 26 mg of 1-(4-ethylpyrimidin-5-yl)-1-(4-methylpyrimidin-5-yl)methanol in 1 ml THF at -30° C., followed by addition of 15 mg of pivaloyl chloride. After warming to room temperature and stirring for 1.5 hours, the reaction was quenched with 1 ml H2O and extracted with ether (3 times). The combined organics were washed with brine, dried (MgSO4) and evaporated to yield 30.7 mg of 1-(4-ethylpyrimidin-5-yl)-1-(4-methylpyrimidin-5-yl)-1-trimethylacetoxymethane as a yellow oil.

reactant | NaH | 3.2 mg | [H-].[Na+]
reactant | 1-(4-ethylpyrimidin-5-yl)-1-(4-methylpyrimidin-5-yl)methanol | 26 mg | C(C)C1=NC=NC=C1C(O)C=1C(=NC=NC1)C | C12H14N4O
reactant | pivaloyl chloride | 15 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-(4-ethylpyrimidin-5-yl)-1-(4-methylpyrimidin-5-yl)-1-trimethylacetoxymethane | 30.7 mg | C(C)C1=NC=NC=C1C(OC(C(C)(C)C)=O)C=1C(=NC=NC1)C | C17H22N4O2
